US04294960
A mixture of 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 2.7 g.), 10% palladium carbon (1.3 g.), water (4 ml.), acetic acid (0.4 ml.), methanol (27 ml.) and tetrahydrofuran (54 ml.) was treated in a similar manner to that of Example 21-(2) to give 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 1.4 g.), pale yellow powder.

reactant | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 2.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCCC | C24H23ClN6O8S2
reactant | water | 4 ml | O | H2O
reactant | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 27 ml | CO | CH4O
catalyst | palladium carbon | 1.3 g | [C].[Pd]
solvent | tetrahydrofuran | 54 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylic acid | 1.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)=NOCCCC | C17H18ClN5O6S2
